### PR TITLE
perf(Analysis/Normed/Affine/Isometry): scope the V₄/P₄ and V₁'/P₁' variables to their users

### PR DESCRIPTION
**Pull request by marcelolynch**
The section variable block of this file declares six torsor pairs. Each pair has four instance binders. Only two declarations use the `V₄`/`P₄` pair: `comp_assoc` and `trans_assoc`. Only seven declarations use the `V₁'`/`P₁'` pair: `AffineIsometry.injective`, `map_eq_iff`, `map_ne`, and the four `AffineSubspace.isometryEquivMap` declarations. All other declarations carry these eight instance binders in their local context. Every typeclass search must examine them.

This PR removes the two pairs from the block. Four small sections declare each pair again, around the declarations that use it.
The nine statements do not change significantly: only the order of their implicit and instance binders changes. Mathlib contains no `@`-application of any of the nine.

Speeds up elaboration of this file by ~6%.

🤖 Generated with [Claude Code](https://claude.com/claude-code)

-------

A dump of all constant types in the module shows that every other declaration keeps its exact type. The nine declarations keep the same hypotheses and the same explicit arguments. Only the order of their implicit and instance binders changes. Mathlib contains no `@`-application of any of the nine.

Standalone elaboration of the file goes from 4.89 s to 4.58 s (medians of 6 interleaved runs, −6 %).

Same restructure as #42238, which measured −26 % instructions on the sibling file `LinearIsometry.lean` under `!bench`.

### CODE REVIEW

**Comment by themathqueen** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/c3848dc59c4a4acb072d1fd526932caefa1e16c8?reference=0acbe13e167f256615da586346deba1c16fd1082) for c3848dc59c4a4acb072d1fd526932caefa1e16c8 against 0acbe13e167f256615da586346deba1c16fd1082 are in. No significant results found. @themathqueen

- 🟥 `build//instructions`: **+18.4G** (**+0.01%**)

**Medium changes (1✅)**

- ✅ `build/module/Mathlib.Analysis.Normed.Affine.Isometry//instructions`: **-5.9G** (**-10.24%**)

**Small changes (2🟥)**

- 🟥 `build/module/Mathlib.Tactic.Convert//instructions`: **+107.6M** (**+1.16%**)
- 🟥 `open-mathlib//maxrss`: **+11MiB** (**+0.41%**)

File: Mathlib/Analysis/Normed/Affine/Isometry.lean [hunk 1]
```diff
@@ -235,10 +240,17 @@ theorem id_comp : (id : P₂ →ᵃⁱ[𝕜] P₂).comp f = f :=
...
+section assoc
+
+variable {V₄ P₄ : Type*} [SeminormedAddCommGroup V₄] [NormedSpace 𝕜 V₄] [PseudoMetricSpace P₄]
+  [NormedAddTorsor V₄ P₄]
+
 theorem comp_assoc (f : P₃ →ᵃⁱ[𝕜] P₄) (g : P₂ →ᵃⁱ[𝕜] P₃) (h : P →ᵃⁱ[𝕜] P₂) :
     (f.comp g).comp h = f.comp (g.comp h) :=
   rfl
 
+end assoc
```
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Affine/Isometry.lean:252]: since this is only for one lemma, let's just inline the variables?
```suggestion
theorem comp_assoc {V₄ P₄ : Type*} [SeminormedAddCommGroup V₄] [NormedSpace 𝕜 V₄]
    [PseudoMetricSpace P₄] [NormedAddTorsor V₄ P₄]
    (f : P₃ →ᵃⁱ[𝕜] P₄) (g : P₂ →ᵃⁱ[𝕜] P₃) (h : P →ᵃⁱ[𝕜] P₂) :
    (f.comp g).comp h = f.comp (g.comp h) :=
  rfl
```

File: Mathlib/Analysis/Normed/Affine/Isometry.lean [hunk 2]
```diff
@@ -577,10 +589,17 @@ theorem coe_symm_trans (e₁ : P ≃ᵃⁱ[𝕜] P₂) (e₂ : P₂ ≃ᵃⁱ[
...
+section assoc
+
+variable {V₄ P₄ : Type*} [SeminormedAddCommGroup V₄] [NormedSpace 𝕜 V₄] [PseudoMetricSpace P₄]
+  [NormedAddTorsor V₄ P₄]
+
 theorem trans_assoc (ePP₂ : P ≃ᵃⁱ[𝕜] P₂) (eP₂G : P₂ ≃ᵃⁱ[𝕜] P₃) (eGG' : P₃ ≃ᵃⁱ[𝕜] P₄) :
     ePP₂.trans (eP₂G.trans eGG') = (ePP₂.trans eP₂G).trans eGG' :=
   rfl
 
+end assoc
```
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Affine/Isometry.lean:601]: same here?

**Review by themathqueen — COMMENTED** [review]
maintainer delegate

**Comment by grunweg** [comment]
Thanks! LGTM with review comments addressed.
bors d+
